US07855216B2
Step 1: 3-Amino-7-fluoro-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester
A mixture of 4-chloro-5-fluoro-nicotinonitrile (3.5 g, 22.4 mmol), glycine ethyl ester hydrochloride (9.4 g, 67.1 mmol) and sodium hydrogencarbonate (11.3 g, 134.2 mmol) in IMS (60 mL) was stirred at reflux for 18 hours. The reaction was then cooled to room temperature and partitioned between water and ethyl acetate. The organic layer was separated and washed with water and brine, dried over sodium sulphate, filtered and concentrated to give a solid which was triturated in diethyl ether. The mixture was aged at room temperature for 18 hours and the precipitate was filtered off and dried under vacuum at 60° C. to give the title compound as a beige solid (2.29 g, 46%). LCMS (method B): RT=1.50 min, M+H+=224.

reactant | 4-chloro-5-fluoro-nicotinonitrile | 22.4 mmol, 3.5 g | ClC1=C(C=NC=C1C#N)F | C6H2ClFN2
reactant | glycine ethyl ester hydrochloride | 67.1 mmol, 9.4 g | Cl.C(C)OC(CN)=O
reactant | sodium hydrogencarbonate | 134.2 mmol, 11.3 g | C(O)([O-])=O.[Na+]
product | 3-Amino-7-fluoro-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 2.29 g, 46% | C(C)OC(=O)C1=C(C=2C=NC=C(C2N1)F)N | C10H10FN3O2
